US07517910B2
3-{4-[(4-{[4-(2,6-diisopropylphenoxy)piperidin-1-yl]methyl}benzyl)oxy]phenyl}propanoic acid
To a mixture of methyl 3-[4-({4-[(4-hydroxypiperidin-1-yl)methyl]benzyl}oxy)phenyl]propanoate (0.20 g, 0.52 mmol), 2,6-diisopropylphenol (0.15 mL, 0.78 mmol), tributylphosphine (0.20 mL, 0.78 mmol) and tetrahydrofuran (6.0 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.20 g, 0.78 mmol) with stirring at 0° C., and the mixture was stirred at room temperature for 16 hr. Diethyl ether was added to the reaction mixture, the insoluble material was filtered off, and the filtrate was concentrated under reduced pressure to give an oil. Then, a mixture of the obtained oil, 1 N aqueous sodium hydroxide solution (1.0 mL), methanol (3.0 mL) and tetrahydrofuran (6.0 mL) was stirred at room temperature for 2 hr. The reaction mixture was neutralized with 1 N hydrochloric acid, and diluted with ethyl acetate. The mixture washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1-hexane/ethyl acetate=1/2) to give the title compound (45 mg, yield 16%) as colorless crystals. MS (APCI−): 528 (M−H).

reactant | methyl 3-[4-({4-[(4-hydroxypiperidin-1-yl)methyl]benzyl}oxy)phenyl]propanoate | 0.52 mmol, 0.20 g | OC1CCN(CC1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C23H29NO4
reactant | 2,6-diisopropylphenol | 0.78 mmol, 0.15 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | tributylphosphine | 0.78 mmol, 0.20 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.78 mmol, 0.20 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | sodium hydroxide | 1 N, 1.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 3.0 mL | CO | CH4O
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
product | 3-{4-[(4-{[4-(2,6-diisopropylphenoxy)piperidin-1-yl]methyl}benzyl)oxy]phenyl}propanoic acid | 45 mg, yield 16% | C(C)(C)C1=C(OC2CCN(CC2)CC2=CC=C(COC3=CC=C(C=C3)CCC(=O)O)C=C2)C(=CC=C1)C(C)C | C34H43NO4
